* tb_inductor_model_check -- known-answer + PVT check of sg13g2_inductor_analytic
*
* TEMPLATE. run_model_check.sh substitutes the @@...@@ placeholders and writes
* the resulting netlist to netlist-snapshots/<record-id>/<corner-id>.spice.
*
* WHAT THIS CHECKS, AND WHAT IT DOES NOT
* --------------------------------------
* It checks that the SPICE netlist in sg13g2_inductor_analytic.spice actually
* implements the closed form that file's header claims it implements -- the
* driving-point impedance of the 2-pi topology whose series branch is
* R_dc * xi*coth(xi), truncated at ten ladder sections. run_model_check.sh
* recomputes that closed form independently in awk, from the same geometry and
* the same PDK constants, and fails the run if the two disagree by more than
* the stated tolerance.
*
* It therefore validates the IMPLEMENTATION, not the MODEL. Whether the model
* is a good description of a real SG13G2 spiral is a separate question,
* answered (as far as it can be answered without EM extraction or silicon) by
* the cross-checks in README.md and by the accuracy limits stated in
* sg13g2_inductor_analytic.spice's own header. This distinction is exactly the
* one sim/tank-characterization/ draws for its MIM extraction arithmetic: the
* method being right is not the model being right.
*
* The same 1 A AC current-injection convention as tb_inductor_zscan and
* tb_mimcap_zscan: the source is written "I 0 <node>" so that V(node) = +Z(f)
* rather than -Z(f).
*
* GEOMETRIES: the three from the PDK's own LVS unit testcase
* (libs.tech/klayout/tech/lvs/testing/testcases/unit/ind_devices/netlist/
* inductor.cdl), so they are geometries IHP itself exercises.
*
* Corner: ind_typ_27c
* Record: 20260910-052743-3896421
* Model library: /home/ubuntu/loom-workspaces/sg13g2-vco/.loom/worktrees/issue-9/sim/inductor-model/sg13g2_inductor_analytic.spice
* mc_rsh = 1.0  (TopMetal2 sheet-resistance multiplier)
* mc_rsub = 1.0 (substrate-resistivity multiplier)

.include "/home/ubuntu/loom-workspaces/sg13g2-vco/.loom/worktrees/issue-9/sim/inductor-model/sg13g2_inductor_analytic.spice"
.temp 27

Ip1  0 lp1  dc 0 ac 1
Ldp1 lp1 0 1
XL_p1 lp1 0 0 inductor w=8.22u s=3.29u d=47.65u nr_r=1 mc_rsh=1.0 mc_rsub=1.0

Ip13  0 lp13 dc 0 ac 1
Ldp13 lp13 0 1
XL_p13 lp13 0 0 inductor w=6.10u s=3.29u d=110.11u nr_r=5 mc_rsh=1.0 mc_rsub=1.0

Ip11  0 lp11 dc 0 ac 1
Ldp11 lp11 0 1
XL_p11 lp11 0 0 inductor w=8.22u s=3.74u d=141.975u nr_r=4 mc_rsh=1.0 mc_rsub=1.0

.control
ac dec 500 1e8 3e11
let fhz  = real(frequency)
let wrad = 2*pi*fhz

let zi_p1  = imag(v(lp1))
let zr_p1  = real(v(lp1))
let l_p1   = imag(v(lp1))/wrad
let q_p1   = imag(v(lp1))/real(v(lp1))
let zi_p13 = imag(v(lp13))
let zr_p13 = real(v(lp13))
let l_p13  = imag(v(lp13))/wrad
let q_p13  = imag(v(lp13))/real(v(lp13))
let zi_p11 = imag(v(lp11))
let zr_p11 = real(v(lp11))
let l_p11  = imag(v(lp11))/wrad
let q_p11  = imag(v(lp11))/real(v(lp11))

meas ac srf_p1  WHEN zi_p1=0  FALL=1
meas ac srf_p13 WHEN zi_p13=0 FALL=1
meas ac srf_p11 WHEN zi_p11=0 FALL=1

meas ac l_p1_1g   FIND l_p1  AT=1e9
meas ac l_p1_5g   FIND l_p1  AT=5e9
meas ac l_p1_10g  FIND l_p1  AT=1e10
meas ac q_p1_1g   FIND q_p1  AT=1e9
meas ac q_p1_5g   FIND q_p1  AT=5e9
meas ac q_p1_10g  FIND q_p1  AT=1e10
meas ac zr_p1_1g  FIND zr_p1 AT=1e9
meas ac zi_p1_1g  FIND zi_p1 AT=1e9
meas ac zr_p1_5g  FIND zr_p1 AT=5e9
meas ac zi_p1_5g  FIND zi_p1 AT=5e9
meas ac zr_p1_10g FIND zr_p1 AT=1e10
meas ac zi_p1_10g FIND zi_p1 AT=1e10
meas ac zr_p1_20g FIND zr_p1 AT=2e10
meas ac zi_p1_20g FIND zi_p1 AT=2e10

meas ac l_p13_1g   FIND l_p13  AT=1e9
meas ac l_p13_5g   FIND l_p13  AT=5e9
meas ac l_p13_10g  FIND l_p13  AT=1e10
meas ac q_p13_1g   FIND q_p13  AT=1e9
meas ac q_p13_5g   FIND q_p13  AT=5e9
meas ac q_p13_10g  FIND q_p13  AT=1e10
meas ac zr_p13_1g  FIND zr_p13 AT=1e9
meas ac zi_p13_1g  FIND zi_p13 AT=1e9
meas ac zr_p13_5g  FIND zr_p13 AT=5e9
meas ac zi_p13_5g  FIND zi_p13 AT=5e9
meas ac zr_p13_10g FIND zr_p13 AT=1e10
meas ac zi_p13_10g FIND zi_p13 AT=1e10
meas ac zr_p13_20g FIND zr_p13 AT=2e10
meas ac zi_p13_20g FIND zi_p13 AT=2e10

meas ac l_p11_1g   FIND l_p11  AT=1e9
meas ac l_p11_5g   FIND l_p11  AT=5e9
meas ac l_p11_10g  FIND l_p11  AT=1e10
meas ac q_p11_1g   FIND q_p11  AT=1e9
meas ac q_p11_5g   FIND q_p11  AT=5e9
meas ac q_p11_10g  FIND q_p11  AT=1e10
meas ac zr_p11_1g  FIND zr_p11 AT=1e9
meas ac zi_p11_1g  FIND zi_p11 AT=1e9
meas ac zr_p11_5g  FIND zr_p11 AT=5e9
meas ac zi_p11_5g  FIND zi_p11 AT=5e9
meas ac zr_p11_10g FIND zr_p11 AT=1e10
meas ac zi_p11_10g FIND zi_p11 AT=1e10
meas ac zr_p11_20g FIND zr_p11 AT=2e10
meas ac zi_p11_20g FIND zi_p11 AT=2e10

set wr_singlescale
set wr_vecnames
ac dec 50 1e8 3e11
let fhz  = real(frequency)
let wrad = 2*pi*fhz
let l_ind_p1  = imag(v(lp1))/wrad
let q_ind_p1  = imag(v(lp1))/real(v(lp1))
let l_ind_p13 = imag(v(lp13))/wrad
let q_ind_p13 = imag(v(lp13))/real(v(lp13))
let l_ind_p11 = imag(v(lp11))/wrad
let q_ind_p11 = imag(v(lp11))/real(v(lp11))
wrdata /home/ubuntu/loom-workspaces/sg13g2-vco/.loom/worktrees/issue-9/sim/inductor-model/records/20260910-052743-3896421-curves/ind_typ_27c.csv l_ind_p1 q_ind_p1 l_ind_p13 q_ind_p13 l_ind_p11 q_ind_p11
.endc

.end
